US05194440
2. 4-(5-Benzyl-1,1-dioxo-1,2,5-thiadiazolidin-2-yl)nitrobenzene
The title compound was prepared in 79% yield from 2-benzyl-1,2,5-thiadiazolidine-1,1-dioxide and 1-fluoro-4-nitrobenzene using a similar method to that described for Example 20 (step 1). The crude product was crystallised from ethyl acetate to give a yellow solid; mp 164°-165° C.; δH (360 MHz, DMSO-d6) 8.30 (2H, d, J=9.2 Hz, Ar--H), 7.40 (5H, m, Ph), 7.33 (2H, d, J=9.2 Hz, Ar--H), 4.31 (2H, s, PhCH2 --), 3.98 (2H, t, J=6.4 Hz, --CH2 --), 3.49 (2H, t, J=6.4 Hz, --CH2 --); m/z (EI) 333 (M+).

reactant | 2-benzyl-1,2,5-thiadiazolidine-1,1-dioxide | C(C1=CC=CC=C1)N1S(NCC1)(=O)=O | C9H12N2O2S
reactant | 1-fluoro-4-nitrobenzene | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
product | 4-(5-Benzyl-1,1-dioxo-1,2,5-thiadiazolidin-2-yl)nitrobenzene | 79% yield | C(C1=CC=CC=C1)N1CCN(S1(=O)=O)C1=CC=C(C=C1)[N+](=O)[O-] | C15H15N3O4S
